US08076488B2
Iron powder (4.03 g, 72.1 mmol) was added slowly to the solution of 2,4-dichloro-5-nitrophenol (3.00 g, 14.4 mmol) in acetic acid (100 ml). After stirring at room temperature overnight, the reaction mixture became milky with formation of a white precipitate. The precipitate was filtered off and the filtrate was concentrated to ca. 20 mL. The residue was diluted with water (100 mL) and neutralized by slow addition of sodium bicarbonate. The mixture was then extracted with methylene chloride (3×150 mL). The organic layer were combined, dried over sodium sulfate, filtered and concentrated to dryness to afford 5-amino-2,4-dichlorophenol (2.20 g, 86%) as a brown solid. 1H-NMR (DMSO-d6) 89.91 (s, 1H), 7.10 (s, 1H), 6.42 (s, 1H), 5.34 (s, 2H); MS LC-MS (M+H)+=178.2, RT=2.10 min.

reactant | 2,4-dichloro-5-nitrophenol | 14.4 mmol, 3.00 g | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])O | C6H3Cl2NO3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | Iron | 72.1 mmol, 4.03 g | [Fe] | Fe
product | 5-amino-2,4-dichlorophenol | 2.20 g, 86% | NC=1C(=CC(=C(C1)O)Cl)Cl | C6H5Cl2NO
